US04723040
Preparation of N-cyclohexyl-p-phenylenediamine
51.0 g (0.25 mole) N-cyclohexyl-4-nitrosoaniline, 20.0 g (50%) NaOH and 135 g n-hexanol were charged to a 0.5 liter three-necked round bottom flask equipped with stirrer, condenser and thermometer, and heated while stirring to 95° C. until the development of an exotherm was observed. Heating was discontinued, the reaction temperature continued to rise to 115° C. and then dropped, within 10 minutes, to 100° C. With the application of heat, a temperature of 90°-95° C. was maintained for 30 minutes. The reaction mixture contained no unreacted nitroso compound. The yield of the product was 64 wt. %; m.p. 59°-61° C.

reactant | N-cyclohexyl-4-nitrosoaniline | 0.25 mole, 51.0 g | C1(CCCCC1)NC1=CC=C(C=C1)N=O | C12H16N2O
reactant | NaOH | 20.0 g | [OH-].[Na+]
reactant | n-hexanol | 135 g | C(CCCCC)O | C6H14O
product | N-cyclohexyl-p-phenylenediamine | C1(CCCCC1)NC1=CC=C(C=C1)N | C12H18N2
